US07875600B2
6-(Triphenylmethoxymethyl)pyridine-2-methanamine
A solution of 2-(azidomethyl)-6-(triphenylmethoxymethyl)pyridine (2.78 g, 6.8 mmol) in THF (25 mL) was treated with triphenylphosphine (1.96 g, 7.5 mmol), stirred at room temperature for 3 h, treated with water (184 μl, 10.2 mmol), stirred at room temperature for a further 7 days and concentrated in vacuo. The resulting oil was purified by chromatography [SiO2; EtOAc:MeOH:NH3 (1:0:0) to (9:1:0.2)] to give the title compound (2.33 g, 90%) as a yellow oil; NMR δH (400 MHz, CDCl3) 1.74 (2H, s), 3.90 (2H, s), 4.34 (2H, s), 7.14-7.33 (10H, m), 7.50-7.52 (6H, m) and 7.65-7.74 (2H, m); M/Z 381 (M+H)+

reactant | 2-(azidomethyl)-6-(triphenylmethoxymethyl)pyridine | 6.8 mmol, 2.78 g | N(=[N+]=[N-])CC1=NC(=CC=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22N4O
reactant | triphenylphosphine | 7.5 mmol, 1.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 10.2 mmol, 184 μl | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-(Triphenylmethoxymethyl)pyridine-2-methanamine | 2.33 g, 90% | C1(=CC=CC=C1)C(OCC1=CC=CC(=N1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2O
